US07943550B2
Step 2: 4-[3-cyclopropylamino-2-methyl-4-(methylsulfonyl)benzoyl]-5-hydroxy-1-methylpyrazole
Under nitrogen, 0.50 g (1.9 mmol) of 3-cyclopropylamino-2-methyl-4-(methylsulfonyl)benzoic acid, 0.24 g (2.4 mmol) of 5-hydroxy-1-methylpyrazole and 0.43 g (2.2 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride were dissolved in dry CH3CN. The mixture was stirred at RT for 5 h. 0.52 ml (3.7 mmol) of NEt3, 0.10 ml (0.7 mmol) of Me3SiCN and a spatula tip of KCN were added, and the mixture was stirred at RT for 1 day. The solvent was removed under reduced pressure, and the residue was taken up in CH2Cl2 and 10% strength H2SO4. The aqueous phase was extracted with CH2Cl2. The organic phases were dried over MgSO4, and the solvent was removed under reduced pressure. The residue was purified by preparative HPLC. This gave 0.19 g of a beige solid of a purity of 90%.

reactant | 3-cyclopropylamino-2-methyl-4-(methylsulfonyl)benzoic acid | 1.9 mmol, 0.50 g | C1(CC1)NC=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C | C12H15NO4S
reactant | 5-hydroxy-1-methylpyrazole | 2.4 mmol, 0.24 g | OC1=CC=NN1C | C4H6N2O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.2 mmol, 0.43 g | Cl.CN(CCCN=C=NCC)C
reactant | NEt3 | 3.7 mmol, 0.52 ml | CCN(CC)CC | C6H15N
reactant | Me3SiCN | 0.7 mmol, 0.10 ml | [Si](C)(C)(C)C#N | C4H9NSi
reactant | KCN | [C-]#N.[K+]
solvent | CH3CN | CC#N | C2H3N
product | 4-[3-cyclopropylamino-2-methyl-4-(methylsulfonyl)benzoyl]-5-hydroxy-1-methylpyrazole | C1(CC1)NC=1C(=C(C(=O)C=2C=NN(C2O)C)C=CC1S(=O)(=O)C)C | C16H19N3O4S
